US08232278B2
Synthesis of 4-chloro-6-(3-methyl-4-methoxyphenyl)-pyrido[3,2-d]pyrimidine
To a suspension of 6-(3-methyl-4-methoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)one (1.41 mmole) in toluene (80 ml) was added phosphorus oxychloride (4.23 mmole) and 2,6-lutidine (4.23 mmole). The reaction mixture was refluxed for 16 hours until a black solution was obtained. After evaporation to dryness, the residue was redissolved in ethyl acetate and extracted with a saturated sodium bicarbonate solution. The combined organic layers were evaporated in vacuo. The residue was purified by silica gel column chromatography (the mobile phase being a ethylacetate/hexane mixture in a ratio gradually ranging from 2:8 to 3:7), resulting in the pure title compound (300 mg, yield 74%) which was characterized by its mass spectrum as follows: MS (m/z): 287 ([M+H]+, 100).

reactant | 6-(3-methyl-4-methoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)one | 1.41 mmole | CC=1C=C(C=CC1OC)C=1C=CC=2N=CNC(C2N1)=O | C15H13N3O2
reactant | phosphorus oxychloride | 4.23 mmole | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 4.23 mmole | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-6-(3-methyl-4-methoxyphenyl)-pyrido[3,2-d]pyrimidine | 300 mg, yield 74% | ClC=1C2=C(N=CN1)C=CC(=N2)C2=CC(=C(C=C2)OC)C | C15H12ClN3O
